US07115600B2
3-Benzyloxymethyl-1-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutanol
To a stirring solution of 1-(4-bromo-benzyl)-pyrrolidine (1.9 g, 7.9 mmol) in 13 mL of tetrahydrofuran at −78 C (iPrOH/dry ice) was added slowly down the side of the flask a solution of n-butyl lithium (3.2 mL, 7.9 mmol, 2.5 M in THF). After 30 minutes a precooled −78 C (iPrOH/CO2 ice) solution of 3-benzyloxymethyl-cyclobutanone (1.0 g, 5.3 mmol, in 1 mL of THF) was added via cannula down the side of the flask (wash 1 mL). The resulting solution was stirred at −78 C for 30 minutes, then quenched with a saturated solution of aqueous NH4OH and diluted with EtOAc. The layers were separated and the organic layer was dried over magnesium sulfate, filtered through a fritted funnel and then concentrated under reduced pressure. Purification of this material was accomplished by flash column chromatography using a Biotage column, eluting with a gradient of 2% MeOH/CH2Cl2 w/0.1% NH4OH through 30% MeOH/CH2Cl2 w/0.1% NH4OH. The product containing fractions were collected and concentrated under reduced pressure to yield the title compound (1.3 g, 71% yield) as a colorless oil and a 3:1 mixture of cis:trans isomers.

reactant | 1-(4-bromo-benzyl)-pyrrolidine | 7.9 mmol, 1.9 g | BrC1=CC=C(CN2CCCC2)C=C1 | C11H14BrN
reactant | iPrOH dry ice | CC(C)O.C(=O)=O
reactant | n-butyl lithium | 7.9 mmol, 2.5 M, 3.2 mL | C(CCC)[Li]
reactant | 3-benzyloxymethyl-cyclobutanone | 5.3 mmol, 1 mL, 1.0 g | C(C1=CC=CC=C1)OCC1CC(C1)=O | C12H14O2
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
product | 3-Benzyloxymethyl-1-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutanol | 1.3 g, 71% yield | C(C1=CC=CC=C1)OCC1CC(C1)(O)C1=CC=C(C=C1)CN1CCCC1 | C23H29NO2
